US08389520B2
Stage a): 4-(6-Chloropyrimidin-4-yl)morpholine
45.0 g (302.1 mmol) 4,6-dichloropyrimidine are initially introduced into 450 ml water. 26.3 g (302.1 mmol) morpholine are added and the mixture is stirred at 90° C. for 16 h. Thereafter, it is cooled to 0° C. and the precipitate formed is filtered off. The precipitate is washed once with 50 ml water and dried in air.

reactant | 4,6-dichloropyrimidine | 302.1 mmol, 45.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | morpholine | 302.1 mmol, 26.3 g | N1CCOCC1 | C4H9NO
solvent | water | 450 ml | O | H2O
product | 4-(6-Chloropyrimidin-4-yl)morpholine | ClC1=CC(=NC=N1)N1CCOCC1 | C8H10ClN3O
